US06806367B2
Preparation of 3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-2-[(1-cyclopentylidene)aminooxy]-6-trifluoromethyl-4(3H)-pyrimidinone (Compound II-3)
A mixture of 2-chloro-3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-4(3H)-pyrimidinone(1.28 g, 0.0027 mol), cyclopentanone oxime(027 g, 0.0027 mol), potassium carbonate(0.38 g, 0.027 mol) and tetrahydrofuran(11 ml) was heated under reflux for 3 hours. The reaction mixture was poured into water, extracted with ethyl acetate, and washed with brine. The organic phase was dried over anhydrous sodium sulfate, and concentrated. The residue was purified by column chromatography on silica gel(20% ethyl acetate/hexane) to give compound II-3 (1.23 g, yield 84.7%) as a white amorphous solid, m.p.76-78° C.

reactant | 2-chloro-3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-4(3H)-pyrimidinone | 0.0027 mol, 1.28 g | ClC1=NC(=CC(N1C1=C(C=C(C(=C1)OC1=C(C=CC=C1)[N+](=O)[O-])Cl)F)=O)C(F)(F)F | C17H7Cl2F4N3O4
reactant | cyclopentanone oxime | 0.0027 mol | C1(CCCC1)=NO | C5H9NO
reactant | potassium carbonate | 0.027 mol, 0.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-2-[(1-cyclopentylidene)aminooxy]-6-trifluoromethyl-4(3H)-pyrimidinone | yield 84.7% | ClC1=CC(=C(C=C1OC1=C(C=CC=C1)[N+](=O)[O-])N1C(=NC(=CC1=O)C(F)(F)F)ON=C1CCCC1)F | C22H15ClF4N4O5
